US07601844B2
N-(1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-yl)-2-phenylacetamide
A reaction tube was charged with HOBt (10 mg), phenylacetic acid (12 mg) and EDC (14 mg) in DMF (0.7 mL). The resulting mixture was agitated at rt. for 15 min, and then a solution of 2-amino-1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methylbutan-1-one hydrochloride (20 mg) in DIEA (50 μL) and DMF (250 μL) was added and the resulting mixture was shaken overnight at rt. At the conclusion of this period, the resulting solution was diluted with MeOH and purified by preparative LC-MS to provide Example 9. MS found: (M+H)+=414.

reactant | HOBt | 10 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | phenylacetic acid | 12 mg | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | EDC | 14 mg
reactant | 2-amino-1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methylbutan-1-one hydrochloride | 20 mg | Cl.NC(C(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl)C(C)C
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
solvent | DIEA | 50 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 250 μL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | N-(1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-yl)-2-phenylacetamide | ClC1=CC=C(C=C1)C1CCN(CC1)C(C(C(C)C)NC(CC1=CC=CC=C1)=O)=O | C24H29ClN2O2
